US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester (example 4 c]) was reacted with 2-[5-methyl-2-(4-trifluoromethoxy-phenyl)-thiazol-4-yl]-ethanol (prepared from [rac]-4-bromo-3-oxo-pentanoic acid methyl ester [PCT Int. Appl. (2001), WO 01/79202] and 4-trifluoromethoxy-thiobenzamide in analogy to the procedures described in examples 12 a] and 12 b]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-(3-methyl-4-{2-[5-methyl-2-(4-trifluoromethoxy-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-(3-methyl-4-{2-[5-methyl-2-(4-trifluoromethoxy-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid as light yellow solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-[5-methyl-2-(4-trifluoromethoxy-phenyl)-thiazol-4-yl]-ethanol | CC1=C(N=C(S1)C1=CC=C(C=C1)OC(F)(F)F)CCO | C13H12F3NO2S
reactant | [rac]-4-bromo-3-oxo-pentanoic acid methyl ester | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | 4-trifluoromethoxy-thiobenzamide | FC(OC1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-2-ethoxy-3-(3-methyl-4-{2-[5-methyl-2-(4-trifluoromethoxy-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)OC(F)(F)F)C)OCC)=O | C27H30F3NO5S
